US08071595B2
To a precooled −78° C. solution of 2-methylbut-3-yn-2-ol (4.71 g, 0.05 mol) in THF (250 mL), n-BuLi (51.2 mL, 0.08 mol) was added under an inert atmosphere, and the mixture stirred for 30 min. Then, 4-(benzyloxy)benzaldehyde (8.0 g, 0.037 mol) in THF was added and the mixture was stirred for an additional 3 h at RT, quenched with a saturated NH4Cl solution and concentrated in vacuo. The residue was acidified with HCl (1 N) and extracted with DCM (3×200 mL). The combined organic layers were washed with water, dried over Na2SO4 and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 1-(4-(benzyloxy)phenyl)-4-methylpent-2-yne-1,4-diol (6 g, 54%) as a solid.

reactant | 2-methylbut-3-yn-2-ol | 0.05 mol, 4.71 g | CC(C)(C#C)O | C5H8O
reactant | n-BuLi | 0.08 mol, 51.2 mL | [Li]CCCC
reactant | 4-(benzyloxy)benzaldehyde | 0.037 mol, 8.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 1-(4-(benzyloxy)phenyl)-4-methylpent-2-yne-1,4-diol | 6 g, 54% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C#CC(C)(O)C)O | C19H20O3
